US07901793B2
(b) Synthesis of 9-bromo-10-p-tolyl-anthracene
4 g (1 eq, 14.9 mmol) of 9-p-tolyl-anthracene, 5.3 g (2 eq, 29.8 mmol) of NBS were dissolved in 200 ml of THF in a 500-ml round-bottomed flask and stirred for 1 hour. 200 ml of water was added to the solution to obtain yellow crystals. The yellow crystals were filtered, dissolved in a small amount of toluene, and separated using column chromatography (silica and hexane) to obtain 4.6 g (89%) of yellow crystals.

reactant | 9-p-tolyl-anthracene | 14.9 mmol, 4 g, 1 eq | C1(=CC=C(C=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12)C | C21H16
reactant | NBS | 29.8 mmol, 5.3 g, 2 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 200 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 9-bromo-10-p-tolyl-anthracene | 4.6 g, 89% | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C=C1)C | C21H15Br
